data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_138055_0,[C:1]1([O:8][H:10])([H:12])[C:2]([O:9][H:11])([H:13])[C:6]([H:15])=[C:7]([H:16])[C:4]([C:3]([H:17])([H:18])[H:19])=[C:5]1[H:14]>>[C:1](/[C:5](=[C:4](/[C:3]([H:17])([H:18])[H:19])[C:7](/[C:6](=[C:2](/[O:9][H:11])[H:13])[H:15])([H:10])[H:16])[H:14])(=[O:8])[H:12],62.3126324999771
MR_95668_0,[C:1](/[C:4](=[C:3]([C:2](=[N:6]\[O:5][H:7])/[H:8])\[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:4]1([H:10])[C:3]([H:9])=[C:2]([H:8])[N:6]1[O:5][H:7])([H:11])([H:12])[H:13],72.00060500002209
MR_616836_0,[C:1]([N:3]([H:10])[H:11])(=[C:5](\[N:4]([H:12])[H:13])[H:14])/[N:6]=[N:7]/[N:2]([H:8])[H:9]>>[C:1]1([N:3]([H:10])[H:11])=[N:6][N:7]([N:2]([H:8])[H:9])[C:5]1([N:4]([H:12])[H:13])[H:14],31.96736000000968
MR_557834_1,[C:1]([N:2](/[C:3]([O:5][H:8])=[N:6]/[O:4][H:7])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:2]([N:6]=[C:3]([O:4][H:7])[O:5][H:8])[H:9])([H:10])([H:11])[H:12],25.89065000001412
MR_615494_2,[C:1]([C:3]([H:13])([H:14])[H:15])([C:7]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]([H:22])([H:23])[H:24])=[O:10])([O:8][H:11])[O:9][H:12]>>[C:1]([C:7]([C:2]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]([H:22])([H:23])[H:24])([C:3]([H:13])([H:14])[H:15])[O:10][H:12])([O:8][H:11])=[O:9],43.52277250001251
MR_28326_2,[C@@:1]([C:2]([C:7]([C:5]([H:19])([H:20])[H:21])=[C:8]([H:22])[H:23])([H:11])[H:12])([C:4]([H:16])([H:17])[H:18])([C:6]([C:3]([H:13])([H:14])[H:15])=[O:9])[H:10]>>[C@@:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:2]([H:11])([H:12])[C@@:7]1([C:5]([H:19])([H:20])[H:21])[C:8]([C:6]([C:3]([H:13])([H:14])[H:15])=[O:9])([H:22])[H:23],69.04256999999987
MR_159962_0,[C:1](=[C:8]([C:5]([H:23])([H:24])[H:25])[C:7]([C:4]([H:20])([H:21])[H:22])([N:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[N:9]([H:10])[H:11])([H:12])[H:13]>>[C:1]([N:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])(/[C:8]([C:5]([H:23])([H:24])[H:25])=[C:7](\[C:4]([H:20])([H:21])[H:22])[N:9]([H:10])[H:11])([H:12])[H:13],53.76922000000292
MR_532545_1,[C:1]1([C:3](=[C:5]([H:14])[H:15])[H:11])=[N:6][N:7]=[C:2]([H:10])[N:8]([H:9])[C:4]1([H:12])[H:13]>>[C:1]([C:3](=[C:5]([H:14])[H:15])[H:11])(=[C:4]([H:12])[H:13])/[N:6]=[N:7]\[C:2](=[N:8]\[H:9])[H:10],46.03904749997298
MR_415987_2,[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])[H:8])=[N:6]\[H:11])([O:5][H:7])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]/[N:4]([H:8])[H:10])[N:6]([H:9])[H:11])([O:5][H:7])([H:12])[H:13],56.747962500008526
MR_439663_0,[C:1]([n:2]1[c:3]([O:6][H:9])[c:4]([O:7][H:10])[c:5]([H:11])[n:8]1)([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:3](/[C:4]1([O:7][H:10])[C:5]([H:11])=[N:8]1)[O:6][H:9])([H:12])([H:13])[H:14],68.37177249998135
MR_635859_0,[C:1]([C:2]([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:12])[H:13])([H:14])[H:15])([C:6]([C:4]([H:19])([H:20])[H:21])=[O:9])([O:8][H:10])[H:11]>>[C:1]([C:2](/[N:5]=[N:7]/[H:13])([H:14])[H:15])([C:6]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:9][H:12])([O:8][H:10])[H:11],72.5245674999833
MR_188490_1,[C:1]([N:3]([C:5]1([O:7][H:8])[C:2]([H:12])([H:13])[N:4]1[H:10])[H:9])(=[O:6])[H:11]>>[C:1]1([O:6][H:8])([H:11])[N:3]([H:9])[C:5](=[O:7])[C:2]([H:12])([H:13])[N:4]1[H:10],47.29342000001623
MR_188329_2,[C:1](=[C:2](/[N:4]=[O:5])[H:8])(\[O:3][H:6])[H:7]>>[C:1]1([O:3][H:6])([H:7])[C:2]([H:8])=[N:4][O:5]1,26.41649500000625
MR_402169_0,[C:1]([C:3]([N:2]([O:5][H:7])[H:8])=[O:6])([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1]1([N:4]([H:9])[H:10])([H:11])[C:3]([N:2]([O:5][H:7])[H:8])([H:12])[O:6]1,64.52645250002348
MR_113938_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:6](=[C:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[H:12])([O:7][O:8][H:10])[O:9][H:11]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](/[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[O:7][O:8][H:10])[H:12])[O:9][H:11],44.8160499999932
MR_353579_1,[C:1]([C:4]([C:2]([H:17])([H:18])[H:19])=[C:7]([N:3](/[C:6](=[N:8]/[N:5]([H:10])[H:11])[H:12])[H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4](=[C:2]([H:18])[H:19])[C:7]1([H:13])[N:3]([H:9])[C:6]1([N:8]([N:5]([H:10])[H:11])[H:17])[H:12])([H:14])([H:15])[H:16],52.04108500001439
MR_183945_1,[C:1]([C:2](/[N:7]=[C:6](/[N:5]([H:13])[H:14])[H:17])([H:15])[H:16])([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])[H:8]>>[C:1]1([N:4]([H:9])[H:12])([H:8])[C:2]([H:15])([H:16])[N:7]1[C:6]([N:3]([H:10])[H:11])([N:5]([H:13])[H:14])[H:17],66.2144275000064
MR_397052_1,[C:1]1([H:11])([H:12])[C:2](=[O:8])[C:5]([C:7]([C:4](=[O:9])[H:10])([H:16])[H:17])([H:13])[C:3]1=[C:6]([H:14])[H:15]>>[C:1]([C:2]([C:5](=[C:7]([H:16])[H:17])[H:13])=[O:8])([C:3]([C:4](=[O:9])[H:10])=[C:6]([H:14])[H:15])([H:11])[H:12],70.7060725000089
MR_546820_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([N:5]([H:9])[H:10])=[N:6]/[N:4]([H:7])[H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]1([N:5]([H:9])[H:10])[N:6]([N:4]([H:7])[H:8])[H:15],70.02335249998481
